US03984459
a. 4-(3-Bromo-propyl)-benzoic acid ethyl ester
100 g 4-(3-Bromo-propyl)-benzoic acid (JACS 65, 2281 (1943)), 400 ml of toluene and 80 ml of thionyl chloride were refluxed for 4 hours. The solvent and the thionyl chloride in excess were removed under reduced pressure and after addition of 400 ml of absolute ethanol to the residue the mixture was heated for 1 hour to the boiling point. It was evaporated under reduced pressure, the residue was taken up in benzene and washed neutral with a saturated NaHCO3 -solution. The organic phase was distilled off after drying with MgSO4.

reactant | 4-(3-Bromo-propyl)-benzoic acid | 100 g | BrCCCC1=CC=C(C(=O)O)C=C1 | C10H11BrO2
reactant | thionyl chloride | 80 ml | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(3-Bromo-propyl)-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)CCCBr)=O | C12H15BrO2
